US05705499
a) 4-Bromo-2-picoline N-oxide
4-Nitro-2-picoline N-oxide (1.0 g, 6.5 mmol) was treated with acetyl bromide (3.5 mL, 47 mmol) as described in Example 65b to provide the title compound (0.38 g, 31%) as an orange-brown oil.

reactant | 4-Nitro-2-picoline N-oxide | 6.5 mmol, 1.0 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C | C6H6N2O3
reactant | acetyl bromide | 47 mmol, 3.5 mL | C(C)(=O)Br | C2H3BrO
product | 4-Bromo-2-picoline N-oxide | 0.38 g, 31% | BrC=1C=C([N+](=CC1)[O-])C | C6H6BrNO
